US07572790B2
5′-[(Cyclopropylamino)carbonyl]-3′-fluoro-2′-methyl-2-(propyloxy)-4-biphenylcarboxylic acid
Intermediate 10 (75 mg), {5-[(cyclopropylamino)carbonyl]-3-fluoro-2-methylphenyl}boronic acid (79 mg) and tetrakis(triphenylphosphine) palladium (0) (10 mg) were combined in isopropanol (2.5 ml). Aqueous sodium hydroxide solution (1M, 0.81 ml) was added and the reaction stirred under nitrogen at 90° C. for 5 hours. The solvent was evaporated in vacuo and the residue partitioned between ethyl acetate/chloroform (1:1, 5 ml) and water (5 ml) and the aqueous extracted with ethyl acetate/chloroform (1:1, 2×5 ml). The organic layers were combined, dried using a hydrophobic filter, and evaporated to leave a yellow gel. The residue was stirred in methanol (1) and aqueous sodium hydroxide solution (2M, 1 ml) under nitrogen at 20° C. for 16 hours. The solvent was evaporated and the residue partitioned between ethyl acetate/chloroform (1:1, 2×10 ml) and water (10 ml). The aqueous layer was acidified to pH1 using concentrated hydrochloric acid, and extracted with ethyl acetate/chloroform (1:1). The organic layers were combined, dried using a hydrophobic filter, and evaporated to leave a white solid. This material was applied to an SPE cartridge (1 g aminopropyl), the cartridge washed with methanol/chloroform (1:9), and the product eluted with acetic acid/rethanollchloroform (1:1:8); to give, after evaporation of the solvents under vacuum, 5′-[(cyclopropylamino)carbonyl]-3′-fluoro-2′-methyl-2-(propyloxy)-4-biphenylcarboxylic acid as a colourless gel (47 mg).

reactant | {5-[(cyclopropylamino)carbonyl]-3-fluoro-2-methylphenyl}boronic acid | 79 mg | C1(CC1)NC(=O)C=1C=C(C(=C(C1)B(O)O)C)F | C11H13BFNO3
reactant | sodium hydroxide | 1M, 0.81 ml | [OH-].[Na+]
reactant | sodium hydroxide | 2M, 1 ml | [OH-].[Na+]
reactant | isopropanol | 2.5 ml | C(C)(C)O | C3H8O
solvent | methanol | CO | CH4O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 10 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5′-[(Cyclopropylamino)carbonyl]-3′-fluoro-2′-methyl-2-(propyloxy)-4-biphenylcarboxylic acid | C1(CC1)NC(=O)C=1C=C(C(=C(C1)C1=C(C=C(C=C1)C(=O)O)OCCC)C)F | C21H22FNO4
